US06252080B1
N-[5-(5-Bromo-2-thienyl)-2-thiazolyl]-8-hydroxy-7-quinolinecarboxamide (Formula I-5) Refer to Chart I
A solution of 8-hydroxyquinoline-7-carboxylic acid (0.43 g) of Preparation 1 in 80 mL xylenes is heated to reflux. PCl3 (0.12 mL) is added dropwise and the mixture stirred for 20 minutes. 2-Amino-5-(5-bromothien-2-yl)thiazole (0.62 g) is added in one portion and the reaction refluxed overnight. The reaction is cooled to room temperature and H2O is added to quench excess PCl3. The solvents are removed and the residue is dissolved in acetic acid. A dark orange solid precipitates upon addition of hexanes (0.28 g) to yield the title product.

reactant | 8-hydroxyquinoline-7-carboxylic acid | 0.43 g | OC=1C(=CC=C2C=CC=NC12)C(=O)O | C10H7NO3
reactant | PCl3 | 0.12 mL | P(Cl)(Cl)Cl | Cl3P
reactant | 2-Amino-5-(5-bromothien-2-yl)thiazole | 0.62 g | NC=1SC(=CN1)C=1SC(=CC1)Br | C7H5BrN2S2
solvent | H2O | O | H2O
product | N-[5-(5-Bromo-2-thienyl)-2-thiazolyl]-8-hydroxy-7-quinolinecarboxamide | BrC1=CC=C(S1)C1=CN=C(S1)NC(=O)C1=CC=C2C=CC=NC2=C1O | C17H10BrN3O2S2
